US08633315B2
N-((1S)-1-((1R)-2-(((4S)-6-(2,2-dimethylpropyl)-8-(1H-imidazol-1-yl)-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)amino)-1-hydroxyethyl)-3-buten-1-yl)-2-methoxyacetamide
To a microwave vial is added N-((1S)-1-((1R)-2-(((4S)-8-bromo-6-(2,2-dimethylpropyl)-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)amino)-1-hydroxyethyl)-3-buten-1-yl)-2-methoxyacetamide (100 mg, 191 μmol), cesium carbonate (311 mg, 955 μmol), 1H-imidazole (65 mg, 955 μmol), and copper(I) iodide (36 mg, 191 μmol). The vial was purged with N2 5×, then 10:1 DMF/H2O (2 mL) and N1,N2-dimethylethane-1,2-diamine (21 μl, 191 μmol) were added. The vial was sealed and heated in a microwave at 185° C. for 30 min. The crude product was dissolved in DMF, filtered through an Acrodisc filter and purified by reverse phase HPLC to afford the title compound as a white amorphous solid. MS m/z=511.4 [M+H]+.

reactant | N-((1S)-1-((1R)-2-(((4S)-8-bromo-6-(2,2-dimethylpropyl)-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)amino)-1-hydroxyethyl)-3-buten-1-yl)-2-methoxyacetamide | 191 μmol, 100 mg | BrC=1C=C(C=C2[C@H](CC3(CCC3)OC12)NC[C@@H](O)[C@H](CC=C)NC(COC)=O)CC(C)(C)C | C26H39BrN2O4
reactant | cesium carbonate | 955 μmol, 311 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1H-imidazole | 955 μmol, 65 mg | N1C=NC=C1 | C3H4N2
reactant | N1,N2-dimethylethane-1,2-diamine | 191 μmol, 21 μl | CNCCNC | C4H12N2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 191 μmol, 36 mg | [Cu]I
solvent | DMF H2O | 2 mL | CN(C)C=O.O
product | N-((1S)-1-((1R)-2-(((4S)-6-(2,2-dimethylpropyl)-8-(1H-imidazol-1-yl)-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)amino)-1-hydroxyethyl)-3-buten-1-yl)-2-methoxyacetamide | CC(CC=1C=C2[C@H](CC3(CCC3)OC2=C(C1)N1C=NC=C1)NC[C@@H](O)[C@H](CC=C)NC(COC)=O)(C)C | C29H42N4O4
